US04532349
A mixture of 2.0 g of 2-chloro-4'-(m-chlorophenylsulfonyl)acetanilide, 0.41 g of sodium azide, 20 ml of water and 40 ml of ethanol was refluxed for 3.5 hours and then evaporated to dryness. The residue was crystallized from ethanol, giving 1.2 g of 2-azido-4'-(m-chlorophenylsulfonyl)acetanilide, mp 125°-126° C.

reactant | 2-chloro-4'-(m-chlorophenylsulfonyl)acetanilide | 2.0 g | ClCC(=O)NC1=CC=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)Cl | C14H11Cl2NO3S
reactant | sodium azide | 0.41 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-azido-4'-(m-chlorophenylsulfonyl)acetanilide | 1.2 g | N(=[N+]=[N-])CC(=O)NC1=CC=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)Cl | C14H11ClN4O3S
